US08372845B2
To a solution of benzyloxycarbonylamino-propionic acid (22.3 g, 99.9 mmol) in DMF (150 ml) was added potassium carbonate (19.3 g, 139.9 mmol). 2-Chloro-N,N-dipropyl-acetamide (17.7 g, 99.9 mmol) was added over 30 min, and the reaction mixture was heated to 60° C. and stirred for 2.5 h. The reaction mixture was allowed to cool to RT and diluted with water (500 ml) and extracted with isopropyl acetate (total 50 ml). The combined organic phases were washed with water (3×200 ml) to afford a solution of 3-benzyloxycarbonylamino-propionic acid dipropylcarbamoylmethyl ester in isopropyl acetate which was not isolated further. LC-MS; 365.2 [M+H]+ Method (i)

reactant | benzyloxycarbonylamino-propionic acid | 99.9 mmol, 22.3 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C | C11H13NO4
reactant | potassium carbonate | 139.9 mmol, 19.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Chloro-N,N-dipropyl-acetamide | 99.9 mmol, 17.7 g | ClCC(=O)N(CCC)CCC | C8H16ClNO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | water | 500 ml | O | H2O
product | 3-benzyloxycarbonylamino-propionic acid dipropylcarbamoylmethyl ester | C(CC)N(C(=O)COC(CCNC(=O)OCC1=CC=CC=C1)=O)CCC | C19H28N2O5
